US06774086B2
Step 4: 3-Oxo-1-cyclohexenyl 2-chloro-3-(N,N-diethylaminocarbonylmethoxy)-4-ethylsulfonylbenzoate
0.500 g (1.30 mmol) of 2-chloro-3-(N,N-diethylaminocarbonylmethoxy)-4-ethylsulfonylbenzoic acid, 0.163 g (1.30 mmol) of N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide-hydrochloride and 0.002 g of DMAP were stirred for 10 hours at RT in 15 ml of CH2Cl2. The mixture was subsequently diluted with CH2Cl2 and washed with 0.5 N HCl, with water, with saturated NaHCO3 solution and again with water. After the organic phases had been dried over Na2SO4 and concentrated completely, the product was obtained in the form of a brown resin.

reactant | 2-chloro-3-(N,N-diethylaminocarbonylmethoxy)-4-ethylsulfonylbenzoic acid | 1.30 mmol, 0.500 g | ClC1=C(C(=O)O)C=CC(=C1OCC(=O)N(CC)CC)S(=O)(=O)CC | C15H20ClNO6S
reactant | N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide-hydrochloride | 1.30 mmol, 0.163 g | Cl.CN(CCCN=C=NCC)C
catalyst | DMAP | 0.002 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | 3-Oxo-1-cyclohexenyl 2-chloro-3-(N,N-diethylaminocarbonylmethoxy)-4-ethylsulfonylbenzoate | ClC1=C(C(=O)OC2=CC(CCC2)=O)C=CC(=C1OCC(=O)N(CC)CC)S(=O)(=O)CC | C21H26ClNO7S
